US08685974B2
To a solution of 3-(5-chloro-2-thienyl)-1H-pyrazole (1 eq, 0.023 mol) and cesium carbonate (1.2 eq, 0.028 mol) in dry N,N-dimethylformamide (50 mL) was added 1-bromo-2-methylpropane (1.1 eq, 0.025 mol) slowly and the mixture was stirred at room temperature for 3 h. After completion of the reaction monitored by TLC, the reaction mixture was poured into ice cold water and extracted with ethyl acetate. The combined organic layers were washed with water, brine, dried over anhydrous Na2SO4, filtered and evaporated. The crude compound was purified by column-chromatography to afford 4.3 g of 3-(5-chloro-2-thienyl)-1-isobutyl-1H-pyrazole (76% yield).

reactant | 3-(5-chloro-2-thienyl)-1H-pyrazole | 0.023 mol, 1 eq | ClC1=CC=C(S1)C1=NNC=C1 | C7H5ClN2S
reactant | cesium carbonate | 0.028 mol, 1.2 eq | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-bromo-2-methylpropane | 0.025 mol, 1.1 eq | BrCC(C)C | C4H9Br
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 3-(5-chloro-2-thienyl)-1-isobutyl-1H-pyrazole | 4.3 g, 76% yield | ClC1=CC=C(S1)C1=NN(C=C1)CC(C)C | C11H13ClN2S
